US08859553B2
Step 3. 1-BOC-3-(2-(imidazo[1,2-b]pyridazin-3-yl)ethynyl)piperidine
A solution of 3-bromoimidazo[1,2-b]pyridazine (0.40 g, 2 mmol), 1-BOC-3-ethynylpiperidine (0.55 g, 2.6 mmol), Pd(PPh3)2Cl2 (70 mg, 0.1 mmol), CuI (29 mg, 0.15 mmol), and DIPEA (0.39 g, 3 mmol) in DMF (20 mL) was stirred at 80° C. under Are for 6 hrs. The mixture was poured into 100 mL water, extracted with EtOAc (60 mL×3), organic layer was washed with brine, dried with Na2SO4, filtered, and the filtrate was evaporated in vacuo. The crude product was purified by chromatography on silica gel (PE/EtOAc 7:3 to 3:2) to give 0.39 g product as yellow oil (60.0%). 1H NMR (300 MHz, CDCl3) δ: 8.50 (1H, d, J=4.2 Hz), 7.98-8.08 (2H, m), 7.13-7.17 (1H, dd, J=4.5 and 8.7 Hz), 4.09 (1H, brs), 3.76-3.82 (1H, m), 3.19 (1H, brs), 3.02-3.09 (1H, m), 2.81-2.88 (1H, m), 2.32 (1H, brs), 2.11-2.15 (1H, m), 1.67-1.81 (2H, m), 1.46 (9H, s). LCMS: m/z [M+H]+ 327.2112.

reactant | 3-bromoimidazo[1,2-b]pyridazine | 2 mmol, 0.40 g | BrC1=CN=C2N1N=CC=C2 | C6H4BrN3
reactant | 1-BOC-3-ethynylpiperidine | 2.6 mmol, 0.55 g | C(=O)(OC(C)(C)C)N1CC(CCC1)C#C | C12H19NO2
reactant | DIPEA | 3 mmol, 0.39 g | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 100 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.15 mmol, 29 mg | [Cu]I
product | 1-BOC-3-(2-(imidazo[1,2-b]pyridazin-3-yl)ethynyl)piperidine | 0.39 g, 60.0% | C(=O)(OC(C)(C)C)N1CC(CCC1)C#CC1=CN=C2N1N=CC=C2 | C18H22N4O2
